US04774253
2.02 g (0.02 mol) of triethylamine in 20 ml of diethyl ether were added dropwise over a period of 15 minutes at -10° C. to a solution of 4.49 g (0.02 mol) of 3,4-dichlorobenzene N-hydroxycarboximidoyl chloride in 90 ml of dry diethyl ether. After 0.5 hour at -5° C. to -10° C. 4.004 g (0.022 mol) of methyl 2-propynyloxy-2-methylpropionate were added and the mixture was stored at -5° C. for 48 hours. The mixture was filtered, the filtrate was evaporated and the residue was chromatographed on 150 g of silica gel using hexane/ethyl acetate (4:1) for the elution. There were obtained 6 g (87%) of pure methyl 2-[[3-(3,4-dichlorophenyl)-5-isoxazolyl]methoxy]-2-methylpropionate in the form of an oil.

reactant | triethylamine | 0.02 mol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzene | 0.02 mol, 4.49 g | ClC=1C=CC=CC1Cl | C6H4Cl2
reactant | methyl 2-propynyloxy-2-methylpropionate | 0.022 mol, 4.004 g | C(#CC)OC(C(=O)OC)(C)C | C8H12O3
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 90 ml | C(C)OCC | C4H10O
product | methyl 2-[[3-(3,4-dichlorophenyl)-5-isoxazolyl]methoxy]-2-methylpropionate | 6 g, 87% | ClC=1C=C(C=CC1Cl)C1=NOC(=C1)COC(C(=O)OC)(C)C | C15H15Cl2NO4
